US07316884B2
16.5 g (0.05 mol) of 5-bromo-2,5-dimethyl-2-(1-adamantyl)-1,3-dioxolan-4-one was placed in a 500 ml egg-plant type flask, and 200 g of isopropyl ether was added thereto and dissolved therein. While cooling with a refrigerant of −10° C., 9.1 g (0.06 mol) of 1,8-diazabicyclo[5.4.0]-7-undecene diluted with 20 g of isopropyl ether was added by drops into the solution over 1 hour, followed by stirring at room temperature for 2 hours. After completion of the stirring, the reaction solution was analyzed. As a result, it was found that the reaction solution contained only 1.7 g of 5-methylene-2-(1-adamantyl)-2-methyl-1,3-dioxolan-4-one (yield: 14%) and that 80% of the raw materials was decomposed into adamantyl methyl ketone.

reactant | 5-bromo-2,5-dimethyl-2-(1-adamantyl)-1,3-dioxolan-4-one | 0.05 mol, 16.5 g | BrC1(C(OC(O1)(C12CC3CC(CC(C1)C3)C2)C)=O)C | C15H21BrO3
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.06 mol, 9.1 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | isopropyl ether | 20 g | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl ether | 200 g | C(C)(C)OC(C)C | C6H14O
product | 5-methylene-2-(1-adamantyl)-2-methyl-1,3-dioxolan-4-one | 1.7 g, yield: 14% | C=C1C(OC(O1)(C)C12CC3CC(CC(C1)C3)C2)=O | C15H20O3
